US05321047
In a manner analogous to Example 21 a, 4-[N, N-bis-(2-thienylmethyl )amino]butyronitrile was prepared by alkylation of bis-(2-thienylmethyl)amine using 4-bromobutyronitrile.

reactant | bis-(2-thienylmethyl)amine | S1C(=CC=C1)CNCC=1SC=CC1 | C10H11NS2
reactant | 4-bromobutyronitrile | BrCCCC#N | C4H6BrN
product | 4-[N, N-bis-(2-thienylmethyl )amino]butyronitrile | S1C(=CC=C1)CN(CC=1SC=CC1)CCCC#N | C14H16N2S2
